US04714838
Preparation of 1,3-Di-(4-Nitrophenyl)-2,4,6-(1H,3H,5H)-Pyrimidinetrione
1,3-Di-(4-nitrophenyl)urea (1.8 g, 0.006 mole), diethyl malonate (1 ml, 0.006 mole), and sodium hydroxide (0.24 g, 0.006 mole) were refluxed in ethanol (100 ml) for three hours. 1,3-Di-(4-nitrophenyl)-2,4,6-(1H,3H,5H)-pyrimidinetrione precipitated as a yellow powder, m.p. greater than 250° C.

reactant | 1,3-Di-(4-nitrophenyl)urea | 0.006 mole, 1.8 g | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C13H10N4O5
reactant | diethyl malonate | 0.006 mole, 1 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydroxide | 0.006 mole, 0.24 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,3-Di-(4-Nitrophenyl)-2,4,6-(1H,3H,5H)-Pyrimidinetrione | [N+](=O)([O-])C1=CC=C(C=C1)N1C(N(C(CC1=O)=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H10N4O7
